US06348627B1
To a 100 ml reaction bottle equipped with magnetic stir bar were charged 5.0 g (35.2 mmole) 2,6-difluorobenzaldehyde in 20 ml acetone, added 50% NaOH (42 mmole) in 60 ml water (exothermic) and stirred room temperature. The reaction was monitored by GLC and after 2 hours worked up. The reaction mixture was extracted with 50 ml CHCl3, washed with 50 ml H2O, dried over anhydrous MgSO4, filtered, and removed solvent in vacuuo on a rotary evaporator to afford 5.7 g of 4-(2,6-difluoro-phenyl)-3-buten-2-one as a yellow oil (81% purity by GC) in 89.5% isolated yield.

reactant | 2,6-difluorobenzaldehyde | 35.2 mmole, 5.0 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | NaOH | 42 mmole | [OH-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
product | 4-(2,6-difluoro-phenyl)-3-buten-2-one | 5.7 g | FC1=C(C(=CC=C1)F)C=CC(C)=O | C10H8F2O
